US05834468
4-[N-(2-Benzyloxy-5-bromobenzyl)aminomethyl]benzoic acid (adduct with acetic acid)
To a mixture of ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)-aminomethyl]benzoate (1.4 g) in methanol (25 ml) was added 2N sodium hydroxide solution (7.7 ml). The mixture was heated at reflux for 30 minutes, left to stand for 2 hours at ambient temperature, the solvent evaporated and the residue mixed with water (20 ml). The mixture was acidified with acetic acid, the precipitate filtered off and crystallised form ethyl acetate to give the title compound (800 mg) mpt 209° C. The starting material was prepared as follows:

reactant | ethyl 4-[N-(2-benzyloxy-5-bromobenzyl)-aminomethyl]benzoate | 1.4 g | C(C1=CC=CC=C1)OC1=C(CNCC2=CC=C(C(=O)OCC)C=C2)C=C(C=C1)Br | C24H24BrNO3
reactant | sodium hydroxide | 2N, 7.7 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 4-[N-(2-Benzyloxy-5-bromobenzyl)aminomethyl]benzoic acid | 800 mg | C(C1=CC=CC=C1)OC1=C(CNCC2=CC=C(C(=O)O)C=C2)C=C(C=C1)Br | C22H20BrNO3
